US05580981
1-phenylsulfonyloxy-7-azabenzotriazole
HOAt is reacted with phenylsulfonyl chloride in accordance with the procedure described in Example 2 to afford the title compound.

reactant | HOAt | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | phenylsulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | 1-phenylsulfonyloxy-7-azabenzotriazole | C1(=CC=CC=C1)S(=O)(=O)ON1N=NC2=C1N=CC=C2 | C11H8N4O3S
